US07482366B2
(3-Bromo-5-isopropyl-phenyl)-acetic acid methyl ester (0.514 g, 1.9 mmoles) was place into a 25 mL pear-shaped flask and was sealed under nitrogen. The material was then solubilized with 13 mL of anhydrous DMSO, and the resulting solution was degassed by passing a steady stream of nitrogen through the solution for 10 min. In a separate round-bottom flask were combined bis(pinacolato)diboron (0.58 g, 2.3 mmoles), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with DCM (1:1) (50 mg, 0.061 mmoles) and potassium acetate (0.56 g, 5.7 mmoles) with a stirring bar under nitrogen. Following degassification the bromide solution was transferred to the “catalytic” mixture and the resulting mix was stirred at 90° C. for 16 hours. After this period the reaction mix was combined with 60 mL of water and was extracted with benzene (4×1 5 mL). The combined benzene layer was washed with water (4×25 mL) and was dried over anhydrous Na2SO4. Following evaporation in vacuo the crude product was purified using flash silica chromatography (0-10% EtOAc/Hexane) to yield [3-isopropyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester (502 mg, 83% yield) was a thick, greenish liquid. TLC visualization accomplished using ceric ammonium molybdate stain. 1H-NMR (CDCl3): δ 269-167.58 (br s, 1H), 7.53 (br s, 1H), 7.26-7.23 (m, 1H), 3.68 (s, 3H), 3.62 (s, 2H), 2.91 (m, J=6.8 Hz, 1H), 1.34 (s, 12H), 1.25 (d, J=6.8 Hz, 6H).

reactant | (3-Bromo-5-isopropyl-phenyl)-acetic acid methyl ester | 1.9 mmoles, 0.514 g | COC(CC1=CC(=CC(=C1)C(C)C)Br)=O | C12H15BrO2
reactant | bis(pinacolato)diboron | 2.3 mmoles, 0.58 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.061 mmoles, 50 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 5.7 mmoles, 0.56 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 13 mL | CS(=O)C | C2H6OS
product | [3-isopropyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester | 502 mg, 83% yield | COC(CC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C(C)C)=O | C18H27BO4
